US06951879B2
According to the method in example 4, 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and N-(2-methoxyethyl)methylamine were converted to yield [2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-ethyl]-(2-methoxy-ethyl)-methyl-amine, MS: 422 (MH+, 1Br).

reactant | 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C15H11Br2NOS
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | [2-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-ethyl]-(2-methoxy-ethyl)-methyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCN(C)CCOC | C19H21BrN2O2S
